US04252979
0.0008 moles of 2,5-dichloro-3-nitro-terephthalic acid were refluxed for 1 hour in 0.334 moles of dimethyl formamide (DMF), after which time the reaction mixture was flash evaporated to remove most of the DMF. To the residue was added 60 ml of water with agitation, and an orange precipitate formed which was filtered off and washed. The precipitate was dissolved in approximately 50 ml of saturated sodium bicarbonate solution, refiltered and then extracted with chloroform. The aqueous phase was acidified with 10% hydrochloric acid to complete precipitation, and the resulting precipitate was filtered, washed and dried to give an 85% crude yield of 2,5-dichloro-3-nitro-benzoic acid. Subsequent GLC analysis showed it to be 95.8% pure--thus, the yield of the process was 79.5% of theoretical.

reactant | 2,5-dichloro-3-nitro-terephthalic acid | 0.0008 moles | ClC1=C(C(=O)O)C=C(C(=C1[N+](=O)[O-])C(=O)O)Cl | C8H3Cl2NO6
reactant | dimethyl formamide | 0.334 moles | CN(C=O)C | C3H7NO
product | 2,5-dichloro-3-nitro-benzoic acid | ClC1=C(C(=O)O)C=C(C=C1[N+](=O)[O-])Cl | C7H3Cl2NO4
